US06939887B2
Synthesis of ethyl 4-chlorobenzyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate
Ethyl 4-chlorobenzylcarbamate (865.9 mg) and 2-chloro-3,5-dinitrobenzotrifluoride (996.7 mg) were dissolved in tetrahydrofuran (15 ml), and to the solution was added sodium hydride (162.1 mg). The reaction mixture was heated at reflux for 3 hours. After allowing to cool, to the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer-was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resultant residue was purified by silica gel column (75 g, hexane:ethyl acetate=10:1) to give the title compound (294.7 mg, 18%).

reactant | Ethyl 4-chlorobenzylcarbamate | 865.9 mg | ClC1=CC=C(CNC(OCC)=O)C=C1 | C10H12ClNO2
reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 996.7 mg | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | sodium hydride | 162.1 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | ethyl 4-chlorobenzyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate | 294.7 mg, 18% | ClC1=CC=C(CN(C(OCC)=O)C2=C(C=C(C=C2C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-])C=C1 | C17H13ClF3N3O6
